US07691882B2
2-Chloromethyl-5-fluoro-pyridine
To a solution of (5-fluoro-pyridin-2-yl)-methanol (945 mg, 7.43 mmol) described in Manufacturing Example 41-1-1 in methylene chloride (70 mL) was added dropwise thionyl chloride (813 μL, 11.1 mmol) at room temperature, which was stirred for 30 minutes. This reaction solution was partitioned by addition of water, sodium hydrogencarbonate and methylene chloride. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (hexane:diethyl ether=1:1) to obtain the title compound (761.1 mg, 70%).

reactant | (5-fluoro-pyridin-2-yl)-methanol | 7.43 mmol, 945 mg | FC=1C=CC(=NC1)CO | C6H6FNO
reactant | thionyl chloride | 11.1 mmol, 813 μL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloromethyl-5-fluoro-pyridine | 761.1 mg, 70% | ClCC1=NC=C(C=C1)F | C6H5ClFN
